US05693818
Preparation of (+)-5-Methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]-sulfinyl]-1H-benzimidazole
0.76 g (1.5 mmol) of the more hydrophilic diastereomer of 6-methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1-[(S)-mandeloyloxymethyl]-1H-benzimidazole was dissolved in 50 ml methanol. A solution of 0.12 mg (3.0 mmol) sodium hydroxid in 1.5 ml water was added, and after 10 minutes the mixture was evaporated on a rotavapor. The residue was partitioned between 25 ml water and 25 ml dichloromethane. The organic solution was extracted with 25 ml water and to the combined aqueous solutions was added 200 μl (3.2 mmol) methyl formate. After 15 minutes the mixture was extracted with 3×25 ml dichloromethane. The organic solution was dried over Na2SO4 and then evaporated. There was obtained 0.42 g (81%) of the title compound as a colourless syrup. The optical purity (e.e.) which was analyzed by chiral column chromatography was 98%. [α]D20 =+157° (c=0.5%, chloroform).

reactant | 6-methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1-[(S)-mandeloyloxymethyl]-1H-benzimidazole | COC=1C=CC2=C(N(C(=N2)S(=O)CC2=NC=C(C(=C2C)OC)C)COC([C@@H](O)C2=CC=CC=C2)=O)C1 | C26H27N3O6S
reactant | sodium hydroxid | 3.0 mmol, 0.12 mg | [OH-].[Na+]
reactant | methyl formate | 3.2 mmol, 200 μl | C(=O)OC | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 1.5 ml | O | H2O
product | (+)-5-Methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]-sulfinyl]-1H-benzimidazole | 0.42 g, 81% | COC1=CC2=C(NC(=N2)S(=O)CC2=NC=C(C(=C2C)OC)C)C=C1 | C17H19N3O3S
